* Generated Inverter Netlist
* put suitable commands for better understanding of the circuit and its parameters


.include 45nm_HP.pm
.param vdd_val=1.2999999999999998
.param cload_val=5e-14
.param slew_val=4e-10
.param temp_val=125
.param wn=90n
.param wp=3.6e-07
M1 out in vdd vdd pmos W={wp} L=45n
M2 out in 0 0 nmos W={wn} L=45n
CL out 0 {cload_val}
Vdd vdd 0 {vdd_val}
Vin in 0 PULSE(0 {vdd_val} 0 {slew_val} {slew_val} 1n 2n)
.temp {temp_val}
.tran 0 4n 0 1p
.measure tran avg_pwr AVG I(Vdd)*V(vdd) FROM=1n TO=3n
.end

